US08865675B2
A solution of trichloromethyl chloroformate (340 μL, 2.8 mmol) in anhydrous Et2O (5 mL) was cooled (−15° C.) and treated with a solution of dilinoleyl methanol (1.0 g, 1.9 mmol) and pyridine (230 μL, 2.8 mmol) in Et2O (5 mL). After stirring (1 h) the reaction mixture was filtered through a frit and the filtrate was added, dropwise, to a cool (0° C.) solution of 3-methylamino-propan-1-ol (1.1 mL, 11.3 mmol) in Et2O (5 mL). After stirring (5 min) the reaction mixture was filtered and concentrated. The crude material was subjected to chromatography (12%→20% EtOAc-hexanes) to yield (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-hydroxypropyl)(methyl)carbamate (960 mg, 79%) as a colorless oil. Rf 0.17 (10% EtOAc-hexanes), FW 644.07, C42H77NO3.

reactant | trichloromethyl chloroformate | 2.8 mmol, 340 μL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | dilinoleyl methanol | 1.9 mmol, 1.0 g | C(CCCCCCC\C=C/C\C=C/CCCCC)C(O)CCCCCCCC\C=C/C\C=C/CCCCC | C37H68O
reactant | pyridine | 2.8 mmol, 230 μL | N1=CC=CC=C1 | C5H5N
reactant | 3-methylamino-propan-1-ol | 11.3 mmol, 1.1 mL | CNCCCO | C4H11NO
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-19-yl (3-hydroxypropyl)(methyl)carbamate | 960 mg, 79% | OCCCN(C(OC(CCCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCC\C=C/C\C=C/CCCCC)=O)C | C42H77NO3
